US08580972B2
27.8 g (79.9 mmol) of methyl N-{2-[2-(4-chlorophenoxy)phenyl]-1-oxoethyl}-N-methylglycinate (compound IIIb) was dissolved in 150 mL of toluene. 11.5 g of sodium tert-butoxyde were added, and the resulting mixture was stirred overnight at room temperature. 350 mL of water were added, and the resulting mixture was extracted three times with 150 mL of ethyl acetate. The combined organic phases were washed with 200 mL of water. The aqueous phases were combined and pH was adjusted to 1 with HCl 2 M. The solvent was removed by filtration, and the solid was recrystallized twice with methanol, to obtain 5.4 g of 3-[2-(4-chlorophenoxy)phenyl]-1-methylpyrrolidine-2,4-dione (compound IVb) as a solid. Yield: 21.4%.

reactant | methyl N-{2-[2-(4-chlorophenoxy)phenyl]-1-oxoethyl}-N-methylglycinate | 79.9 mmol, 27.8 g | ClC1=CC=C(OC2=C(C=CC=C2)CC(=O)N(CC(=O)OC)C)C=C1 | C18H18ClNO4
reactant | sodium | 11.5 g | [Na] | Na
reactant | water | 350 mL | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(4-chlorophenoxy)phenyl]-1-methylpyrrolidine-2,4-dione | 5.4 g, Yield: 21.4% | ClC1=CC=C(OC2=C(C=CC=C2)C2C(N(CC2=O)C)=O)C=C1 | C17H14ClNO3
